US09278950B2
Step 4. tert-Butyl [(3S,5R)-1-benzyl-5-methylpiperidin-3-yl]carbamate
Triethylamine (0.932 mL, 6.69 mmol) was added to a solution of tert-butyl [(1S,3R)-4-hydroxy-1-(hydroxymethyl)-3-methylbutyl]carbamate (0.39 g, 1.7 mmol) in DCM (7.5 mL) at 0° C. Methanesulfonyl chloride (0.388 mL, 5.01 mmol) was then added dropwise to the resulting solution. After stirring at 0° C. for 1 h, the mixture was diluted with DCM (50 mL), washed with saturated aq. NaHCO3 (50 mL), dried over Na2SO4 and concentrated under reduced pressure. Benzylamine (3.65 mL, 33.4 mmol) was added to the resulting residue and mixture was stirred at 70° C. for 18 h, then cooled to room temperature. The reaction mixture was diluted with EtOAc (100 mL), washed with 10% aq. K3PO4 (50 mL) and brine (50 mL), dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (0-30% EtOAc in hexanes) to give the sub-title compound as a white solid (0.34 g, 67%). LCMS calc. for C18H29N2O2 (M+H)+: m/z=305.2. found 305.2.

reactant | Triethylamine | 6.69 mmol, 0.932 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl [(1S,3R)-4-hydroxy-1-(hydroxymethyl)-3-methylbutyl]carbamate | 1.7 mmol, 0.39 g | OC[C@@H](C[C@@H](CO)NC(OC(C)(C)C)=O)C | C11H23NO4
reactant | Methanesulfonyl chloride | 5.01 mmol, 0.388 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Benzylamine | 33.4 mmol, 3.65 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | DCM | 7.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl [(3S,5R)-1-benzyl-5-methylpiperidin-3-yl]carbamate | 0.34 g, 67% | C(C1=CC=CC=C1)N1C[C@H](C[C@H](C1)C)NC(OC(C)(C)C)=O | C18H28N2O2
